US08471005B2
741c) 4-Hydroxy-4-(4-{7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester
4-(4-Amino-3-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (50 mg, 1.0 equiv), trifluoromethanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (70 mg, 1.0 equiv) and N,N-diisopropylethylamine (54 1, 2.0 equiv) were dissolved in 1-methoxy-2-propanol, and heated to 100° C. overnight. Concentrated, and purified by preparative TLC, 60% EtOAc/hexane containing 1% triethylamine. Obtained 4-hydroxy-4-(4-{7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester as a brown solid, 43 mg. mp 111-112° C. LCMS (E/I+) 623 (M+H). NMR 1H (CDCl3) 8.71 (s, 1H), 8.12 (d, J=4.74 Hz, 1H), 7.90-7.96 (m, 1H), 7.46-7.58 (m, 3H), 7.00-7.05 (m, 2H), 6.79-6.89 (m, 2H), 3.96-4.11 (m, 2H), 3.89 (s, 3H), 3.17-3.29 (m, 2H), 3.12 (s, 3H), 2.66 (s, 3H), 1.85-2.01 (m, 2H), 1.58-1.67 (m, 2H), 1.60 (s, 1H), 1.50 (s, 9H).

reactant | 4-(4-Amino-3-methoxy-phenyl)-4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 50 mg, 1.0 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)(O)C1=CC(=C(C=C1)N)OC | C17H26N2O4
reactant | trifluoromethanesulfonic acid 7-[2-(methanesulfonyl-methyl-amino)-phenyl]pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 70 mg, 1.0 equiv | CS(=O)(=O)N(C1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F)C | C15H13F3N4O5S2
reactant | N,N-diisopropylethylamine | 2.0 equiv | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-methoxy-2-propanol | COCC(C)O | C4H10O2
product | 4-Hydroxy-4-(4-{7-[2-(methanesulfonyl-methyl-amino)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino}-3-methoxy-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(C)S(=O)(=O)C)OC)O | C31H38N6O6S
